US04898947
A mixture of 4-[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde (2.40 g), 2,4-thiazolidinedione (1.66 g), ethanol (40 ml) and piperidine (0.2 ml) was heated under reflux for 8 hours. The resulting crystals were recrystallized form ethyl acetate to give 2.14 g (64%) of 5-{[2-(5-ethyl-2-pyridyl)ethoxy]benzylidene}-2,4-thiazolidinedione as colorles crystals. m.p.: 165.5°-167° C.

reactant | 4-[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde | 2.40 g | C(C)C=1C=CC(=NC1)CCOC1=CC=C(C=O)C=C1 | C16H17NO2
reactant | 2,4-thiazolidinedione | 1.66 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-{[2-(5-ethyl-2-pyridyl)ethoxy]benzylidene}-2,4-thiazolidinedione | 2.14 g, 64% | C(C)C=1C=CC(=NC1)CCOC(C1=CC=CC=C1)=C1C(NC(S1)=O)=O | C19H18N2O3S
